US07276516B2
Shake a mixture of o-anisidine (5.0 g, 41 mmol) and rhodium on carbon (5% Rh; 5.0 g) in AcOH (65 mL) under H2 (60 psig) at 60° C. for 6 h. Filter the reaction mixture and rotary evaporate the filtrate (75° C.). Dissolve this material in CHCl3 (100 mL) and basify with satd aq NaHCO3 (50 mL). Dry the organic layer (Na2SO4) and rotary evaporate (40° C.) to yield 1.20 g of 2-methoxy-cyclohexylamine as a yellow oil.

reactant | o-anisidine | 41 mmol, 5.0 g | COC=1C(=CC=CC1)N | C7H9NO
solvent | AcOH | 65 mL | CC(=O)O | C2H4O2
catalyst | rhodium on carbon | 5.0 g | [Rh] | Rh
product | 2-methoxy-cyclohexylamine | 1.20 g | COC1C(CCCC1)N | C7H15NO
